US04567268
1.58 grams of 80 percent pyridinium bromide perbromide (3.95 millimoles) was added in one portion to a cooled to 0° C. solution of 1.00 gram (3.32 millimoles) of dimethyl 2,6-dimethyl-4-phenyl-1,4-dihydropyridine-3,5-dicarboxylate and 0.4 milliliter of pyridine in 20 milliliters of dry ethanol-free chloroform. The resulting mixture was stirred for 45 minutes at 0° C. and then heated at reflux temperature for 1.3 hous. Thereafter, the mixture was cooled to room temperature, diluted with chloroform and the resulting solution washed successively with 2N hydrochloric acid and brine, dried over magnesium sulfate, and dried solution filtered to remove the drying agent, and then subjected to reduce pressure to vaporize the solvent and to recover as residue 1.41 grams of product as a yellow oil. The oil was chromatographed on silica gel using 70 percent ethyl acetate--30 percent hexane as eluant to obtain 595 milligrams (63 percent yield) of purified methyl 2-methyl-4-phenyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]-pyridine-3-carboxylate product which after recrystallization from ethyl acetate-hexane and drying at 60° C. at 0.005 millimeters mercury pressure for 17 hours had a melting point of 193°-196° C. Elemental analyses for the product were as follows:

reactant | pyridinium bromide perbromide | 3.95 millimoles, 1.58 grams | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | dimethyl 2,6-dimethyl-4-phenyl-1,4-dihydropyridine-3,5-dicarboxylate | 3.32 millimoles, 1.00 gram | CC=1NC(=C(C(C1C(=O)OC)C1=CC=CC=C1)C(=O)OC)C | C17H19NO4
reactant | pyridine | 0.4 milliliter | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-methyl-4-phenyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]-pyridine-3-carboxylate | 595 milligrams, 63 percent yield | CC1=C(C(C2=C(N1)COC2=O)C2=CC=CC=C2)C(=O)OC | C16H15NO4
